US04576732
p-n-Octylbenzoic acid chloride prepared from 7 g of p-n-octylbenzoic acid and excess thionyl chloride was dissolved in toluene, and the solution was admixed with a pyridine solution of 8.3 g of said 4-hydroxy-4'-biphenylcarboxylic acid 2-methylbutyl ester for reaction at 80° C. for 3 hours. The crude product was obtained in the same manner as described in Example 1 and recrystallized twice from ethyl acetate to obtain p-n-octylbenzoic acid 4'-(2-methylbutoxycarbonyl)-4-biphenylyl ester.

reactant | p-n-Octylbenzoic acid chloride | C(CCCCCCC)C1=CC=C(C(=O)Cl)C=C1 | C15H21ClO
reactant | p-n-octylbenzoic acid | 7 g | C(CCCCCCC)C1=CC=C(C(=O)O)C=C1 | C15H22O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-hydroxy-4'-biphenylcarboxylic acid 2-methylbutyl ester | 8.3 g | CC(COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)O)CC | C18H20O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | p-n-octylbenzoic acid 4'-(2-methylbutoxycarbonyl)-4-biphenylyl ester | CC(COC(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)OC(C1=CC=C(C=C1)CCCCCCCC)=O)CC | C33H40O4
